US04732984
2-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-1,2-benzisothiazol-3(2H)-one 1,1-dioxide, hydrochloride
The title compound is prepared by dissolving 2.5 g (0.008 mol) of 2-(4-chlorobutyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide in 50 ml of dimethylformamide and to that solution 2.5 g (0.01 mol) of 1-(6-chloro-2-pyrazinyl)piperazine hydrochloride and 5 ml of triethylamine are added. Stirring is continued for 48 hours. The solvent is removed under reduced pressure and the residue is partitioned between water and methylene chloride. The methylene chloride extracts are combined, dried over anhydrous Na2SO4, filtered and evaporated under reduced pressure to give crude base. Preparative HPLC (silica gel; ethylacetate:methylene chloride (9.1)) gives, following evaporation of the appropriate fractions (Rf 0.5), the title compound, which is converted to the hydrochloride salt; mp 246°-249° C.

reactant | 2-(4-chlorobutyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 0.008 mol, 2.5 g | ClCCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | C11H12ClNO3S
reactant | 1-(6-chloro-2-pyrazinyl)piperazine hydrochloride | 0.01 mol, 2.5 g | Cl.ClC1=CN=CC(=N1)N1CCNCC1
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[4-[4-(6-Chloro-2-pyrazinyl)-1-piperazinyl]butyl]-1,2-benzisothiazol-3(2H)-one 1,1-dioxide, hydrochloride | Cl.ClC1=CN=CC(=N1)N1CCN(CC1)CCCCN1S(C2=C(C1=O)C=CC=C2)(=O)=O | InChI=1S/C19H22ClN5O3S.ClH/c20-17-13-21-14-18(22-17)24-11-9-23(10-12-24)7-3-4-8-25-19(26)15-5-1-2-6-16(15)29(25,27)28;/h1-2,5-6,13-14H,3-4,7-12H2;1H
